US07632829B2
1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(3-morpholin-4-yl-propyl)-[1,4]diazepan-5-one
In analogy to the procedure described in example 5D, 1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-4-(3-iodo-propyl)-[1,4]diazepan-5-one and morpholine (with no additional sodium iodide) gave after flash silica gel column purification (CH2Cl2/EtOAc 99:1 to 96:4) the title compound as a light yellow viscous oil. MS: 440.2 (MH+, 2Cl).

reactant | 1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-4-(3-iodo-propyl)-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CCCI | C17H19Cl2IN2O2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | sodium iodide | [I-].[Na+]
product | 1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(3-morpholin-4-yl-propyl)-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CCCN1CCOCC1 | C21H27Cl2N3O3
